US06949579B2
Working as in Example 75, starting with 500 mg of 2-chloro-N-(6-chloro-1H-indazol-3-yl)acetamide, 15 cm3 of acetonitrile and 0.54 cm3 of morpholine. The reaction medium is refluxed for 2 hours and then concentrated to dryness under reduced pressure (2.7 kPa; 50° C.) and the crude product obtained is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 2.5 cm), eluting with ethyl acetate. The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.), then dried (90 Pa; 45° C.) to give 470 mg of N-(6-chloro-1H-indazol-3-yl)-4-morpholineacetamide in the form of a white powder melting at about 82-90° C.

reactant | 2-chloro-N-(6-chloro-1H-indazol-3-yl)acetamide | 500 mg | ClCC(=O)NC1=NNC2=CC(=CC=C12)Cl | C9H7Cl2N3O
reactant | morpholine | 0.54 cm3 | N1CCOCC1 | C4H9NO
solvent | acetonitrile | 15 cm3 | C(C)#N | C2H3N
product | N-(6-chloro-1H-indazol-3-yl)-4-morpholineacetamide | 470 mg | ClC1=CC=C2C(=NNC2=C1)NC(CN1CCOCC1)=O | C13H15ClN4O2
